US07378525B2
Preparation of 4-fluoro-5,6,7,8-tetrahydro-naphthalene-1-sulfonyl chloride
The compound was prepared according to Scheme 10 in a similar manner to the method for preparing 4-fluoro-naphthalene-1-sulfonyl chloride. Chlorosulfonic acid (2.65 g, 1.5 mL, 22.7 mmol) was stirred in a round-bottom flask cooled by a water bath at room temperature. 5-Fluoro-1,2,3,4-tetrahydro-naphthalene (0.62 g, 4.13 mmol) was added dropwise and the dark mixture was stirred for 30 minutes until gas evolution ceased. The reaction mixture was poured carefully over a mixture of ice (75 g) and dichloromethane (100 mL) and charged to a separatory funnel. The organic layer was separated, washed with brine and dried over MgSO4. Filtration and concentration in vacuo afforded a tan solid. Wt.: 860 mg (86%). 1H NMR (300 MHz, CDCl3) δ 7.97 (dd, 1H), 7.02 (t, 1H), 3.27 (m, 2H), 2.80 (m, 2H), 1.86 (m, 4H).

reactant | 4-fluoro-naphthalene-1-sulfonyl chloride | FC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C10H6ClFO2S
reactant | Chlorosulfonic acid | 22.7 mmol, 1.5 mL, 2.65 g | ClS(=O)(=O)O | ClHO3S
reactant | 5-Fluoro-1,2,3,4-tetrahydro-naphthalene | 4.13 mmol, 0.62 g | FC1=C2CCCCC2=CC=C1 | C10H11F
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-fluoro-5,6,7,8-tetrahydro-naphthalene-1-sulfonyl chloride | FC1=CC=C(C=2CCCCC12)S(=O)(=O)Cl | C10H10ClFO2S
